US06780883B2
3,4,5-Trimethoxy-N-(6-methoxy-pyridin-3-yl)-benzamide
This compound was synthesized by the same procedure as for Example 15, except 3,4,5-trimethoxybenzoic acid and 5-amino-2-methoxypyridine were used instead of 2-napthoic acid and 4-iodoaniline. Tiny off-white needles. M+319.3

reactant | 3,4,5-trimethoxybenzoic acid | COC=1C=C(C(=O)O)C=C(C1OC)OC | C10H12O5
reactant | 5-amino-2-methoxypyridine | NC=1C=CC(=NC1)OC | C6H8N2O
reactant | 2-napthoic acid | C1=C(C=CC2=CC=CC=C12)C(=O)O | C11H8O2
reactant | 4-iodoaniline | IC1=CC=C(N)C=C1 | C6H6IN
product | 3,4,5-Trimethoxy-N-(6-methoxy-pyridin-3-yl)-benzamide | COC=1C=C(C(=O)NC=2C=NC(=CC2)OC)C=C(C1OC)OC | C16H18N2O5
